US05387714
In a stream of argon gas, 1-bromo-2-(biphenyl-4-yloxymethyl)benzene (33.92 g, 0.1 mol) in dry THF (140 ml) was dropwise added to a mixture of magnesium (4.86 g, 0.2 mol) and dibromoethane (0.2 ml) in dry THF (20 ml) at 50° to 60° C. over 40 minutes. The reaction mixture was stirred at 65° C. for 1 hour, diluted with dry THF (90 ml) and cooled below 20° C. This mixture was dropwise added to a solution of oxalyl chloride (15.23 g, 0.12 mol) in dry THF (250 ml) at -50° C. over 15 minutes, followed by stirring at -75° C. for 1 hour, and a 40% solution (46.59 g) of methylamine (0.6 mol) in methanol was added thereto at -20° C., followed by stirring at room temperature for 1 hour. After completion of the reaction, water (1000 ml) was added to the reaction mixture which was then adjusted to below pH 2 by addition of conc. HCl and extracted with ethyl acetate (600 ml). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give N-methyl-2-[2-(biphenyl-4-yloxymethyl)phenyl]-2-oxoacetamide (24.52 g; yield, 71.0%) as colorless crystals.

reactant | 1-bromo-2-(biphenyl-4-yloxymethyl)benzene | 0.1 mol, 33.92 g | BrC1=C(C=CC=C1)COC1=CC=C(C=C1)C1=CC=CC=C1 | C19H15BrO
reactant | magnesium | 0.2 mol, 4.86 g | [Mg] | Mg
reactant | dibromoethane | 0.2 ml | BrC(C)Br | C2H4Br2
reactant | oxalyl chloride | 0.12 mol, 15.23 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 0.6 mol | CN | CH5N
reactant | HCl | Cl | ClH
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | water | 1000 ml | O | H2O
product | N-methyl-2-[2-(biphenyl-4-yloxymethyl)phenyl]-2-oxoacetamide | 24.52 g, 71.0% | CNC(C(=O)C1=C(C=CC=C1)COC1=CC=C(C=C1)C1=CC=CC=C1)=O | C22H19NO3
